US08389511B2
tert-Butyl (2R,5R)-5-[{[4-{2-[(difluoroacetyl)amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]-2-{2-[(2,2,2-trifluoroethyl)-amino]ethyl}piperidine-1-carboxylate
To a solution of tert-butyl (2R,5R)-5-[{[4-{2-[(difluoroacetyl)amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]-2-(2-oxoethyl)piperidine-1-carboxylate (377 mg) in ethanol (3 ml) were added 2,2,2-trifluoroethylamine hydrochloride (227 mg), acetic acid (128 μl), sodium triacetoxyborohydride (367 mg), and the mixture was stirred at room temperature for 19 hours. To the reaction solution was added a saturated aqueous sodium hydrogen carbonate solution (2 ml), and the mixture was extracted with ethyl acetate (50 ml). The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: chloroform/methanol=99/1) to give the title compound (425 mg).

reactant | tert-butyl (2R,5R)-5-[{[4-{2-[(difluoroacetyl)amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]-2-(2-oxoethyl)piperidine-1-carboxylate | 377 mg | FC(C(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@@H]2CC[C@@H](N(C2)C(=O)OC(C)(C)C)CC=O)C(C)C)(C)C)=O)F | C31H41F5N4O7
reactant | 2,2,2-trifluoroethylamine hydrochloride | 227 mg | Cl.FC(CN)(F)F
reactant | sodium triacetoxyborohydride | 367 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | acetic acid | 128 μl | C(C)(=O)O | C2H4O2
product | tert-Butyl (2R,5R)-5-[{[4-{2-[(difluoroacetyl)amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]-2-{2-[(2,2,2-trifluoroethyl)-amino]ethyl}piperidine-1-carboxylate | 425 mg | FC(C(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@@H]2CC[C@@H](N(C2)C(=O)OC(C)(C)C)CCNCC(F)(F)F)C(C)C)(C)C)=O)F | C33H45F8N5O6
